US06573270B1
4-(tert-butyl)-N-{3-(2-hydroxyethoxy)-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-5-yl)benzenesulfonamide
To 4-(tert-butyl)-N-{3-(2-hydroxyethoxy)-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-5-yl}-N-[(2-methoxyethoxy)methyl]benzenesulfonamide (Preparation 12) in ethanol (1.5 ml) was added hydrochloric acid (6M, 1.5 ml). The reaction mixture was refluxed for 5 hours and then left at room temperature overnight. The reaction was concentrated under reduced pressure and the residue was partitioned between water (10 ml) and ethyl acetate (10 ml). The aqueous was extracted with ethyl acetate (2×20 ml). The organics were combined, dried over magnesium sulfate, filtered and concentrated under reduced pressure to yield the desired product (120 mg) as a white solid. Taken on crude to the next step.

reactant | 4-(tert-butyl)-N-{3-(2-hydroxyethoxy)-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-5-yl}-N-[(2-methoxyethoxy)methyl]benzenesulfonamide | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)N(COCCOC)C1=C(C(=NN1C)OCCO)C1=CC=C(C=C1)C(F)(F)F | C27H34F3N3O6S
reactant | hydrochloric acid | 6M, 1.5 ml | Cl | ClH
solvent | ethanol | 1.5 ml | C(C)O | C2H6O
product | 4-(tert-butyl)-N-{3-(2-hydroxyethoxy)-1-methyl-4-[4-(trifluoromethyl)phenyl]-1H-pyrazol-5-yl)benzenesulfonamide | 120 mg | C(C)(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C(C(=NN1C)OCCO)C1=CC=C(C=C1)C(F)(F)F | C23H26F3N3O4S
